US05326497
A mixture of 14.7 g of 2-(4-bromophenyl)-5-(ethoxy)-pyrimidine, 5.7 g of 4-penten-1-ol, 10 g of sodium bicarbonate and 20 ml of N-methylpyrrolidone was treated with 0.3 g of triphenylphosphine and 0.12 g of palladium acetate. The reaction mixture was heated at 120° C. for 2 hours under a nitrogen atmosphere, then poured into 100 ml of water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed twice with 100 ml of concentrated sodium chloride solution each time, dried over magnesium sulfate, filtered and subsequently concentrated. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 8:2) and recrystallization from ethyl alcohol gave 12 g of 2-[4-(5-hydroxy-1-pentenyl)phenyl]-5-(ethoxy)pyrimidine.

reactant | 2-(4-bromophenyl)-5-(ethoxy)-pyrimidine | 14.7 g | BrC1=CC=C(C=C1)C1=NC=C(C=N1)OCC | C12H11BrN2O
reactant | 4-penten-1-ol | 5.7 g | C(CCC=C)O | C5H10O
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
catalyst | palladium acetate | 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 100 ml | O | H2O
product | 2-[4-(5-hydroxy-1-pentenyl)phenyl]-5-(ethoxy)pyrimidine | 12 g | OCCCC=CC1=CC=C(C=C1)C1=NC=C(C=N1)OCC | C17H20N2O2
